US08865736B2
4-(3-Methoxy-phenyl)-2-methyl-thiazole
A mixture of thioacetamide (8.0 g, 106.0 mmol) and 2-bromo-1-(3-methoxy-phenyl)-ethanone (2.0 g, 8.81 mmol) was heated at 140° C. for 6 h under nitrogen atmosphere. After completion of the reaction mixture (TLC monitoring), water (50 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (230-400 M, 2% EtOAc-Hexane) to get the desired product (1.5 g, 83%).

reactant | thioacetamide | 106.0 mmol, 8.0 g | C(C)(=S)N | C2H5NS
reactant | 2-bromo-1-(3-methoxy-phenyl)-ethanone | 8.81 mmol, 2.0 g | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
solvent | water | 50 mL | O | H2O
product | 4-(3-Methoxy-phenyl)-2-methyl-thiazole | 1.5 g, 83% | COC=1C=C(C=CC1)C=1N=C(SC1)C | C11H11NOS
